US05017573
Preparation of N-[1-(2,5-dimethylbenzyl)-4-methylhexahydro-1H-1,4-diazepin-6-yl]-1H-indazole -3-carboxamide:
To a solution of 1H-indazole-3-carboxylic acid (1.0 g) in N,N-dimethylformamide (20 ml), N,N'-carbonyldiimidazole (1.1 g) is added, and the mixture is heated at 60° C. for 2 hours. 6-Amino-1-(2,5-dimethylbenzyl)4-methylhexahydro-1H-1,4-diazepine (1.5 g) is added to the reaction mixture, and the mixture is heated at 60° C. for 2 hours. The solvent is evaporated under reduced pressure, and the residue is diluted with water and extracted with chloroform. The organic layer is washed successively with water and aqueous sodium hydroxide solution, and dried over sodium sulfate. The solvent is evaporated under reduced pressure, and the residue is chromatographed on silica gel with elution of acetone. Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound (1.6 g) as an oil. The free base thus obtained is converted to the fumarate of the title compound in a usual manner, m.p. 168-170° C. (recrystallized from ethanol).

reactant | 1H-indazole-3-carboxylic acid | 1.0 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 6-Amino-1-(2,5-dimethylbenzyl)4-methylhexahydro-1H-1,4-diazepine | 1.5 g | NC1CN(CCN(C1)CC1=C(C=CC(=C1)C)C)C | C15H25N3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[1-(2,5-dimethylbenzyl)-4-methylhexahydro-1H-1,4-diazepin-6-yl]-1H-indazole -3-carboxamide | 1.6 g | CC1=C(CN2CCN(CC(C2)NC(=O)C2=NNC3=CC=CC=C23)C)C=C(C=C1)C | C23H29N5O
